US05514676
3,5-Diamino-4-hydroxybenzoic acid (2 g, 11.9 mmole) was dissolved in 6N hydrochloric acid (50 ml) and refluxed for 2 hours. The mixture was evaporated to dryness and the residue was treated with ethyl acetate (50 ml), filtered and dried to give 3,5-diamino-4-hydroxybenzoic acid dihydrochloride (2.58 g, 90%), m.p. 260°-262° C. (dec.) (lit. ref., Chemical Abstracts, 1908, 2379, m.p. 260° C. (dec)).

reactant | 3,5-Diamino-4-hydroxybenzoic acid | 11.9 mmole, 2 g | NC=1C=C(C(=O)O)C=C(C1O)N | C7H8N2O3
reactant | hydrochloric acid | 6N, 50 ml | Cl | ClH
product | 3,5-diamino-4-hydroxybenzoic acid dihydrochloride | 2.58 g, 90% | Cl.Cl.NC=1C=C(C(=O)O)C=C(C1O)N | InChI=1S/C7H8N2O3.2ClH/c8-4-1-3(7(11)12)2-5(9)6(4)10;;/h1-2,10H,8-9H2,(H,11,12);2*1H
